US05276049
1-(4-Cyano-phenyl)-3-(2-hydroxy-ethyl)-imidazolidin-2-one
0.71 g of lithium borohydride were added in batches to a solution of 8.8 g of 1-(4-cyano-phenyl)-3-(ethoxycarbonylmethyl)-imidazolidin-2-one in 500 ml of tetrahydrofuran with stirring at ambient temperature. The mixture was stirred for 1 hour at ambient temperature and for 2 hours at 60° C., then after cooling in an ice bath 16.5 ml of 2N hydrochloric acid were added and the resulting mixture was evaporated down in vacuo. The residue was digested with 50 ml of methanol, the methanol phase was evaporated down and the residue was purified over silica gel (eluant: ethyl acetate/methanol=9:1)

reactant | lithium borohydride | 0.71 g | [BH4-].[Li+]
reactant | 1-(4-cyano-phenyl)-3-(ethoxycarbonylmethyl)-imidazolidin-2-one | 8.8 g | C(#N)C1=CC=C(C=C1)N1C(N(CC1)CC(=O)OCC)=O | C14H15N3O3
reactant | hydrochloric acid | 2N, 16.5 ml | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
product | 1-(4-Cyano-phenyl)-3-(2-hydroxy-ethyl)-imidazolidin-2-one | C(#N)C1=CC=C(C=C1)N1C(N(CC1)CCO)=O | C12H13N3O2
